US07456205B2
2,4-dihydroxylbenzaldehyde (0.27 g, 2 mmol) and di-tert-buty malonic acid (0.43 g, 2 mmol) are dissolved in tert-butanol (5 mL), and three drops of piperidine are added. The mixture is refluxed for 16 hours to obtain a suspension. After being placed for cooling, insoluble material is removed by filtrating. The mother liquor is concentrated, and the ethyl acetate is added with stirring. The supernatant is separated, concentrated, and chromatographed over silica gel column with petroleum/ethyl acetate (3:4) as eluent to obtain 0.14 g of 7-hydroxyl-3-coumarin carboxylic acid tert-butyl ester, yield: 22.5%.

reactant | 2,4-dihydroxylbenzaldehyde | 2 mmol, 0.27 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | di-tert-buty malonic acid | 2 mmol, 0.43 g | C(C)(C)(C)C(C(=O)O)(C(=O)O)C(C)(C)C | C11H20O4
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
catalyst | piperidine | three drops | N1CCCCC1 | C5H11N
product | 7-hydroxyl-3-coumarin carboxylic acid tert-butyl ester | 0.14 g, yield: 22.5% | C(C)(C)(C)OC(=O)C=1C(OC2=CC(=CC=C2C1)O)=O | C14H14O5
